US04061656
(2,5-dimethyl-3-thenyl)triphenylphosphonium chloride
Triphenylphosphine (11.8 g.) and 7.0 g. of 2,5-dimethyl-3-chloromethylthiophene were dissolved in 100 ml. of toluene. The mixture was refluxed overnight under argon, cooled to room temperature and the precipitated white phosphonium salt was collected by filtration, washed several times with cold benzene and dried at 80° C. under high vacuum. The resulting (2,5-dimethyl-3-thenyl)-triphenylphosphonium chloride has a m.p. 246°-250° C.

reactant | Triphenylphosphine | 11.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2,5-dimethyl-3-chloromethylthiophene | CC=1SC(=CC1CCl)C | C7H9ClS
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (2,5-dimethyl-3-thenyl)triphenylphosphonium chloride | [Cl-].CC1=C(C=C(S1)C)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C25H24PS.ClH/c1-20-18-22(21(2)27-20)19-26(23-12-6-3-7-13-23,24-14-8-4-9-15-24)25-16-10-5-11-17-25;/h3-18H,19H2,1-2H3;1H/q+1;/p-1
